US08614226B2
To a solution of 429 mg (1.22 mmol) 5-[2-(5-Chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine in 5 ml dichloromethane 195 mg (1.84 mmol) sodium bicarbonate was added. Then 94 μl (1.84 mmol) bromine were added slowly. The reaction mixture was stirred for 1 hour at room temperature and subsequently was partitioned between water and dichloromethane. The organic phase was dried over sodium sulfate and evaporated yielding 3-bromo-5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine as brown amorphous solid; HPLC-MS: 2.18 min, [M+H] 431.

reactant | 5-[2-(5-Chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine | 1.22 mmol, 429 mg | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=CC(=NC1)N)F | C19H12ClFN4
reactant | dichloromethane | 1.84 mmol, 5 ml, 195 mg | ClCCl | CH2Cl2
reactant | bromine | 1.84 mmol, 94 μl | BrBr | Br2
product | 3-bromo-5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine | BrC=1C(=NC=C(C1)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F)N | C19H11BrClFN4
